US08791123B2
Step A: Preparation of ethyl 5-hydroxypyrazolo[1,5-a]pyrimidine-3-carboxylate
Ethyl 3-amino-1H-pyrazole-4-carboxylate (25.0 g, 161 mmol) and (E)-ethyl 3-ethoxyacrylate (35.8 ml, 242 mmol) were mixed in DMF (537 mL). Cesium carbonate (78.7 g, 242 mmol) was added and the mixture heated to 110° C. for 15 hours. The reaction mixture was cooled to ambient temperature and acidified with HOAc to pH 4. The resultant precipitate was filtered and washed with water and EtOAc, yielding the title compound as a fluffy white solid. Additional material was obtained by an aqueous workup. The filtrate was concentrated to remove the DMF, was diluted in EtOAc (500 mL) and washed with H2O. The resultant precipitate in the EtOAc layer was filtered and washed with water and EtOAc to obtain additional product. The solids were pooled and dried in vacuum to afford ethyl 5-hydroxypyrazolo[1,5-a]pyrimidine-3-carboxylate (33.3 g, 100% yield) as a fluffy white solid. MS (apci) m/z=206.2 (M−H).

reactant | Ethyl 3-amino-1H-pyrazole-4-carboxylate | 161 mmol, 25.0 g | NC1=NNC=C1C(=O)OCC | C6H9N3O2
reactant | (E)-ethyl 3-ethoxyacrylate | 242 mmol, 35.8 ml | C(C)O/C=C/C(=O)OCC | C7H12O3
reactant | Cesium carbonate | 242 mmol, 78.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HOAc | CC(=O)O | C2H4O2
solvent | DMF | 537 mL | CN(C)C=O | C3H7NO
product | ethyl 5-hydroxypyrazolo[1,5-a]pyrimidine-3-carboxylate | OC1=NC=2N(C=C1)N=CC2C(=O)OCC | C9H9N3O3
